US08124188B2
Part B: Synthesis of 1-((diethylcarbamothioylthio)methyl)benzoic Acid Chloride
1-((Diethylcarbamothioylthio)methyl)benzoic acid (0.1 g) was refluxed in a solution of thionyl chloride (1 mL, in excess) and dichloromethane (10 mL) for 2 h. The reaction was then evaporated to dryness and the product obtained as a pale yellow liquid (yield 100%). The product was diluted with dichloromethane to a volume of 1.00 mL (standard solution of 0.353 M) for subsequent reaction with OH terminated Star-PEG MW 116,000 (see below). Conversion of the carboxylic acid to the acid chloride was further verified by the observation that the starting material was a white solid, which was partially insoluble in dichloromethane, whilst the product was a pale, yellow liquid which was completely soluble in dichloromethane. 1H NMR (CD2Cl2, 400 MHz) δ 1.27-1.29 (br.m, 6H, 2×CH3), 3.76 (br.q, J=7.0 Hz, 2H, CH2N), 4.04 (br.q, J=7.0 Hz, 2H, CH2N), 4.66 (s, 2H, CH2S), 7.53 (d, J=8.4 Hz, 2H, aromatic, 8.04 (d, J=8.4 Hz, 2H, aromatic) ppm. 13C(CD2Cl2, 400 MHz) δ 11.8, 12.9, 41.3, 47.5, 50.5, 53.5, 53.7, 54.0, 54.3, 54.5, 130.4, 132.0, 132.5, 146.6, 168.4, 194.3 ppm.

reactant | 1-((Diethylcarbamothioylthio)methyl)benzoic acid | 0.1 g | C(C)N(C(=S)SCC1(C(=O)O)CC=CC=C1)CC | C13H19NO2S2
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-((diethylcarbamothioylthio)methyl)benzoic Acid Chloride | yield 100% | C(C)N(C(=S)SCC1(C(=O)Cl)CC=CC=C1)CC | C13H18ClNOS2
